US04322420
7-Chloro-4-(4'-methoxyanilino)quinazoline (Compound No. 9)
5 ml of ethanol were added to a mixture of 4.8 g of 4,7-dichloroquinazoline and 3.0 g of p-anisidine. The resulting mixture was heated, whereupon the solids dissolved and then the mixture immediately solidified. After cooling, the solidified compound was collected and washed with, in turn, ethanol, dilute aqueous sodium hydroxide and water. The resulting crystals were recrystallized from ethanol to give 4.0 g (yield 51%) of the desired Compound No. 9 in the form of pale yellow plates melting at 177°-179° C.

reactant | 4,7-dichloroquinazoline | 4.8 g | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | p-anisidine | 3.0 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Chloro-4-(4'-methoxyanilino)quinazoline | 4.0 g, yield 51% | ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)OC | C15H12ClN3O
